US08633189B2
To a flask charged with 10% Pd/C (132 mg) under inert atmosphere was added a solution of 4-tert-butyl-2-cyclopentenyl-5-nitrophenyl methyl carbonate (660 mg, 2.07 mmol) in ethanol (20 mL). The reaction was stirred under H2 atmosphere for 3 h, then filtered and dried down to provide 5-amino-4-tert-butyl-2-cyclopentylphenyl methyl carbonate as an off-white crystalline solid (556 mg, 92% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 6.97 (s, 1H), 6.38 (s, 1H), 4.81 (s, 2H), 3.80 (s, 3H), 2.84 (m, 1H), 1.87-1.80 (m, 2H), 1.72-1.66 (m, 2H), 1.62-1.56 (m, 2H), 1.47-1.39 (m, 2H), 1.32 (s, 9H).

reactant | 4-tert-butyl-2-cyclopentenyl-5-nitrophenyl methyl carbonate | 2.07 mmol, 660 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])C(C)(C)C)C1=CCCC1)(OC)=O | C17H21NO5
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 132 mg | [Pd] | Pd
product | 5-amino-4-tert-butyl-2-cyclopentylphenyl methyl carbonate | 556 mg, 92% yield | C(OC1=C(C=C(C(=C1)N)C(C)(C)C)C1CCCC1)(OC)=O | C17H25NO3
